US06969710B2
4-(1,4-Diazepan-1-yl)-N-phenyl-3-[(phenylsulfonyl)amino]benzenesulfonamide hydrochloride (Scheme 6, Method 6)
To a solution of tert-butyl 4-[2-amino-4-(anilinosulfonyl)phenyl]-1,4-diazepane-1-carboxylate (0.268 g g, 0.599 mmol), pyridine (338 μL, 4.19 mmol) and Et3N (337 μL, 2.40 mmol), in CH2Cl2 (8.0 mL) was added benzenesulfonyl chloride (153 μL, 1.20 mmol) in CH2Cl2 (2 mL). The mixture was stirred at room temperature for 16 h. The reaction mixture was washed with saturated aqueous NaHCO3, dried with Na2SO4, filtered and concentrated. The crude material was dissolved in EtOH (5 mL) and KOH (0.134 g, 4.0 equiv.) was added. The reaction was stirred at room temperature for 2 days. Water (5 mL) was added to the reaction mixture and most of the EtOH was evaporated under vacuum. The water phase was extracted with CH2Cl2 (3×20 mL). The combined organic phases were dried with Na2SO4, filtered and concentrated. The crude boc-protected material was dissolved in MeOH, and ether saturated with HCl gas was added. The mixture was stirred for 16 h and then concentrated to give 0.543 g of the crude product, which was purified by reversed phase preparative HPLC to give 0.153 g of the pure product as the acetic acid salt which was converted to the HCl-salt: 1H NMR (DMSO-d6) δ 10.25 (s, 1H), 9.09 (br s, 2H), 7.68-7.58 (m, 4H), 7.54-7.48 (m, 2H), 7.46-7.42 (m, 1H), 7.23-7.16 (m, 3H), 7.05-6.28 (m, 3H) 3.35-3.15 (m, partly obscured by solvent signal HDO, 6H), 2.81-2.75 (m, 2H), 1.92-1.85 (m, 2H); MS (posES-FIA) m/z=487 (M+H+).

reactant | tert-butyl 4-[2-amino-4-(anilinosulfonyl)phenyl]-1,4-diazepane-1-carboxylate | 0.599 mmol, 0.268 g | NC1=C(C=CC(=C1)S(=O)(=O)NC1=CC=CC=C1)N1CCN(CCC1)C(=O)OC(C)(C)C | C22H30N4O4S
reactant | pyridine | 4.19 mmol, 338 μL | N1=CC=CC=C1 | C5H5N
reactant | Et3N | 2.40 mmol, 337 μL | CCN(CC)CC | C6H15N
reactant | benzenesulfonyl chloride | 1.20 mmol, 153 μL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | KOH | 0.134 g, 4.0 equiv. | [OH-].[K+]
solvent | CH2Cl2 | 8.0 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | EtOH | CCO | C2H6O
solvent | Water | 5 mL | O | H2O
product | 4-(1,4-Diazepan-1-yl)-N-phenyl-3-[(phenylsulfonyl)amino]benzenesulfonamide hydrochloride | 0.153 g | Cl.N1(CCNCCC1)C1=C(C=C(C=C1)S(=O)(=O)NC1=CC=CC=C1)NS(=O)(=O)C1=CC=CC=C1 | InChI=1S/C23H26N4O4S2.ClH/c28-32(29,20-10-5-2-6-11-20)26-22-18-21(33(30,31)25-19-8-3-1-4-9-19)12-13-23(22)27-16-7-14-24-15-17-27;/h1-6,8-13,18,24-26H,7,14-17H2;1H
